US09278968B2
To a suspension of 1.28 g of 8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide prepared by the same method as in Example 1, which will be described later, in 30 ml of ethyl acetate was added 1.2 ml of a 4 M hydrogen chloride/ethyl acetate solution, followed by stirring at room temperature. The insoluble materials were collected by filtration and dried under reduced pressure to obtain 1.41 g of 8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride.

reactant | 8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 1.28 g | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CO)C2=CC=CC=C2 | C24H29N3O3
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 8-(cyclohexylmethoxy)-N-[(1R)-2-hydroxy-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide hydrochloride | 1.41 g | Cl.C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CO)C2=CC=CC=C2 | InChI=1S/C24H29N3O3.ClH/c1-17-22(24(29)26-20(15-28)19-11-6-3-7-12-19)27-14-8-13-21(23(27)25-17)30-16-18-9-4-2-5-10-18;/h3,6-8,11-14,18,20,28H,2,4-5,9-10,15-16H2,1H3,(H,26,29);1H/t20-;/m0./s1
